US06743785B2
6-(2-Nitrovinyl)-1H-indole
A mixture of indole-6-carboxaldehyde (2.8 g), nitromethane (30 mL) and ammonium acetate (0.560 g) was stirred at 100° C. for 30 minutes. The excess nitromethane was removed under reduced pressure and the residue washed with water, dissolved in ethyl acetate (500 mL), dried over sodium sulfate, filtered, and the filtrate concentrated under reduced pressure to a volume of about 50 mL. This solution was then diluted with petroleum ether and the resulting suspension filtered and dried to provide 3.3 g (91%) of the desired compound.

reactant | indole-6-carboxaldehyde | 2.8 g | N1C=CC2=CC=C(C=C12)C=O | C9H7NO
reactant | ammonium acetate | 0.560 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 30 mL | [N+](=O)([O-])C | CH3NO2
product | 6-(2-Nitrovinyl)-1H-indole | 3.3 g, 91% | [N+](=O)([O-])C=CC1=CC=C2C=CNC2=C1 | C10H8N2O2
